US05045541
To 60 ml of dry dimethylformamide is added 6.1 g of 9-hydroxy-2-(4-methylphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one, and 0.96 g of 60% sodium hydride is added thereto while stirring at room temperature. After stirring at room temperature for 1 hour, 2.8 g of 3-dimethylaminopropyl chloride is added to the mixture. After the mixture is stirred over water bath under heating at 40°-50° C. for 5 hours, the reaction mixture is poured into a large amount of water, followed by extraction with chloroform. The organic layer is washed with water and dried over anhydrous magnesium sulfate. Then, the solvent is distilled off. The residue is subjected to column chromatography and the eluate is converted into its maleate, which is recrystallized from a mixed solvent of methanol and isopropyl ether to give 7.2 g of 9-(3-dimethylaminopropoxy)-2-(4-methylphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one.maleate, m.p. 159°-162° C.

reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | 9-hydroxy-2-(4-methylphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 6.1 g | OC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)C=C1 | C19H18N2O2
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 2.8 g | CN(CCCCl)C | C5H12ClN
solvent | water | O | H2O
product | 9-(3-dimethylaminopropoxy)-2-(4-methylphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 7.2 g | CN(CCCOC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)C=C1)C | C24H29N3O2
